US09238658B2
To a solution of N-(6-((tert-butyldimethylsilyl)oxy)-4,5,6,7-tetrahydrobenzo[d]thiazol-2-yl)-4-(6-fluoroindolin-1-yl)piperidine-1-carboxamide (106 mg, 0.2 mmol) in THF (3 mL) was added TBAF solution (1.0 M in THF, 0.8 mL, 0.8 mmol, 4 equiv) at room temperature. The resulting mixture was stirred at room temperature for 24 h and was poured into EtOAc/H2O (20 mL/20 mL). The organic layer was washed with brine (20 mL), dried (Na2SO4), and filtered. The solvent was removed by roto-evaporator and the resulting residue purified by column using 70-90% EtOAc/hexane as the eluent to yield 4-(6-fluoroindolin-1-yl)-N-(6-hydroxy-4,5,6,7-tetrahydrobenzo[d]thiazol-2-yl)piperidine-1-carboxamide as a white solid.

reactant | N-(6-((tert-butyldimethylsilyl)oxy)-4,5,6,7-tetrahydrobenzo[d]thiazol-2-yl)-4-(6-fluoroindolin-1-yl)piperidine-1-carboxamide | 0.2 mmol, 106 mg | [Si](C)(C)(C(C)(C)C)OC1CC2=C(N=C(S2)NC(=O)N2CCC(CC2)N2CCC3=CC=C(C=C23)F)CC1 | C27H39FN4O2SSi
reactant | TBAF | 0.8 mmol, 1.0 M, 0.8 mL, 4 equiv | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | EtOAc H2O | 20 mL | CCOC(=O)C.O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-(6-fluoroindolin-1-yl)-N-(6-hydroxy-4,5,6,7-tetrahydrobenzo[d]thiazol-2-yl)piperidine-1-carboxamide | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)NC=1SC2=C(N1)CCC(C2)O | C21H25FN4O2S
